US08975254B2
1-(5-((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)-1H-pyrazol-3-yl)ethyl pivalate
Into a solution containing N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide (53 mg, 0.133 mmol) dissolved in dry pyridine (2 ml), 2,2-dimethylpropionic acid anhydride (0.031 ml, 0.153 mmol) was added dropwise under nitrogen atmosphere. The resulting mixture was stirred at RT for 2 h after which DMAP (2.5 mg, 0.020 mmol) was added and the reaction mixture was left to react overnight. Next morning more 2,2-dimethylpropionic acid anhydride (0.027 ml, 0.132 mmol) was added and the mixture was again left to react overnight with stirring. The mixture was evaporated, extracted with DCM/water and the combined organic phases were evaporated. The product was purified by column chromatography to obtain 51% yield. 1H-NMR (400 MHz; CDCl3): δ 1.18 (d, 9H), 1.21 (d, 3H), 1.65 (d, 3H), 4.25-4.32 (m, 1H), 4.38-4.46 (m, 1H), 4.55-4.65 (m, 1H), 5.85-5.91 (m, 1H), 6.61 (t, 1H), 6.81-6.82 (m, 1H), 7.51 (t, 1H), 7.64-7.68 (m, 1H), 7.73-7.77 (m, 1H), 7.99 (d, 1H), 8.17 (dd, 1H).

reactant | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)-propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | 0.133 mmol, 53 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(C)O | C19H19ClN6O2
reactant | 2,2-dimethylpropionic acid anhydride | 0.153 mmol, 0.031 ml | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
reactant | 2,2-dimethylpropionic acid anhydride | 0.132 mmol, 0.027 ml | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.020 mmol, 2.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(5-((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl-carbamoyl)-1H-pyrazol-3-yl)ethyl pivalate | 51% yield | C(C(C)(C)C)(=O)OC(C)C1=NNC(=C1)C(N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C)=O | C24H27ClN6O3
